US07067657B2
(±)-2-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-hexan-1-ol
5-Phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamin (100 mg, 0.32 mmol), DL-2-amino-1-hexanol (295 μL, 2.3 mmol) and potassium carbonate (124 mg, 0.90 mmol) were heated for 24 hours as in Example 1. The solution was filtered and the solvent was evaporated. The crude product was flash chromatographed on silica (gradient eluent—ammonia:ethylacetate:dichloromethane, 1:69:30 to 1:99:0) resulting in 22 mg (17% yield) of the title compound as a yellow solid.

reactant | 5-Phenylmethylthio-7-chloro-thiazolo[4,5-d]pyrimidin-2-ylamin | 0.32 mmol, 100 mg | C1(=CC=CC=C1)CSC=1N=C(C2=C(N1)N=C(S2)N)Cl | C12H9ClN4S2
reactant | DL-2-amino-1-hexanol | 2.3 mmol, 295 μL | CCCCC(CO)N | C6H15NO
reactant | potassium carbonate | 0.90 mmol, 124 mg | C([O-])([O-])=O.[K+].[K+]
product | (±)-2-(2-Amino-5-phenylmethylthio-thiazolo[4,5-d]pyrimidin-7-ylamino)-hexan-1-ol | 22 mg, 17% yield | NC=1SC2=C(N=C(N=C2NC(CO)CCCC)SCC2=CC=CC=C2)N1 | C18H23N5OS2
